US08431593B2
B. N-(ADAMANTAN-1-YLMETHYL)-2-(HYDROXYMETHYL)IMIDAZO[1,2-A]PYRIDINE-5-CARBOXAMIDE
To a solution of ethyl 5-[(adamantan-1-ylmethyl)carbamoyl]imidazo[1,2-a]pyridine-2-carboxylate (7.0 g, 18.35 mmol) in THF (100 mL) at RT, is added portion-wise LiBH4 (799 mg, 36.7 mmol). The resulting mixture is stirred at RT for 16 h. The reaction is quenched by the slow addition of water, followed by the addition of EtOAc. The organic layer is separated, and the aqueous layer is back extracted with EtOAc. The combined organic layers are washed with water and brine, dried over sodium sulfate, and concentrated. The yellow solid is purified by re-crystallization from DCM to give the title compound.

reactant | ethyl 5-[(adamantan-1-ylmethyl)carbamoyl]imidazo[1,2-a]pyridine-2-carboxylate | 18.35 mmol, 7.0 g | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)C(=O)OCC | C22H27N3O3
reactant | LiBH4 | 36.7 mmol, 799 mg | [Li+].[BH4-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(ADAMANTAN-1-YLMETHYL)-2-(HYDROXYMETHYL)IMIDAZO[1,2-A]PYRIDINE-5-CARBOXAMIDE | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C2=CC=CC=3N2C=C(N3)CO | C20H25N3O2
